US04117158
5-(p-Hexadecylaminophenyl)tetrazole
Sodium azide (0.98 g., 0.015 mole) and NH4Cl are added to a solution of p-hexadecylaminobenzonitrile (5.13 g., 0.015 mole) in dimethylformamide. The mixture is stirred and heated in an oil bath maintained at 120° C. for 42 hours. The reaction mixture is cooled and then poured into ice-water with vigorous stirring. The precipitate separated is filtered, washed thoroughly with water and dried. The dry precipitate is washed repeatedly with ether and dried; 1.7 g. of a pale brown powder is obtained as a homogeneous product, melting point 114°-116° C. (decomp.).

reactant | Sodium azide | 0.015 mole, 0.98 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | p-hexadecylaminobenzonitrile | 0.015 mole, 5.13 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C#N)C=C1 | C23H38N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(p-Hexadecylaminophenyl)tetrazole | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C1=NN=NN1 | C23H39N5
